US04067720
0.2 ml of triethylamine and 6 ml of methyl isocyanate were added to a solution of 12.9 g of 3-hydroxy-5-(p-chlorobenzylthio)-1,2,4-thiadiazole in 100 ml of tetrahydrofuran and after stirring the mixture for 2 hours at 20° C, isopropyl ether was added thereto. The mixture was filtered and the crystals were empasted with isopropyl ether and dried to obtain 15 g of 2-(N-methylcarbamoyl)-5-(p-chlorobenzylthio)-1,2,4-thiadiazole-3-one melting at 140° C.

reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 6 ml | CN=C=O | C2H3NO
reactant | 3-hydroxy-5-(p-chlorobenzylthio)-1,2,4-thiadiazole | 12.9 g | OC1=NSC(=N1)SCC1=CC=C(C=C1)Cl | C9H7ClN2OS2
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(N-methylcarbamoyl)-5-(p-chlorobenzylthio)-1,2,4-thiadiazole-3-one | 15 g | CNC(=O)N1SC(=NC1=O)SCC1=CC=C(C=C1)Cl | C11H10ClN3O2S2
